US07902367B2
Step 5d) Methyl 2-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidin-1-yl]benzoate
2-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidin-1-yl]benzaldehyde (45.2 mg, 0.102 mmol) was dissolved in methanol (5 mL). To this solution, sodium cyamide (25.8 mg, 0.510 mmol) and manganese dioxide (88.7 mg, 1.02 mmol) were added and the mixture was stirred at room temperature for 3 hours. Subsequently, a saturated aqueous sodium bicarbonate solution was added and the mixture was filtered through Celite. The filtrate was extracted with ethyl acetate and the extract washed with brine, followed by drying over magnesium sulfate and evaporation of the solvent. Purification of the resulting residue by silica gel column chromatography (Chromatorex NH-DM2035, Fuji Silysia Chemical Co., Ltd.) (hexane:ethyl acetate=50:1->10:1) gave 27.9 mg (58%) of the desired compound as a colorless oil.

reactant | 2-[3-[[2-(4-Chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidin-1-yl]benzaldehyde | 0.102 mmol, 45.2 mg | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)COCC1CN(CCC1)C1=C(C=O)C=CC=C1 | C24H25ClN2O2S
reactant | sodium | [Na] | Na
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | manganese dioxide | 1.02 mmol, 88.7 mg | [O-2].[O-2].[Mn+4]
product | Methyl 2-[3-[[2-(4-chlorophenyl)-4-methylthiazol-5-yl]methoxymethyl]piperidin-1-yl]benzoate | 27.9 mg, 58% | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)COCC1CN(CCC1)C1=C(C(=O)OC)C=CC=C1 | C25H27ClN2O3S
